US07253197B2
(2-Fluoro-phenyl)-[2-(3-methanesulfonyl-phenylamino)-thiazol-5-yl]-methanone
To a solution of 37 mg (0.13 mmol) 1-Dimethylaminomethylene-3-(3-methanesulfonyl-phenyl)-thiourea in 0.33 ml DMF was added 28 mg (0.13 mmol) 2-Fluorophenacyl bromide and the mixture was allowed to stir at room temperature for 16 h. 17 mg (0.13 mmol) diisopropylethylamine was added and the mixture was subjected to preparative HPLC separation on reversed phase eluting with an acetonitrile/water gradient to yield 38.5 mg (79%) of the title compound after evaporation of the product fractions.

reactant | 1-Dimethylaminomethylene-3-(3-methanesulfonyl-phenyl)-thiourea | 0.13 mmol, 37 mg | CN(C)C=NC(=S)NC1=CC(=CC=C1)S(=O)(=O)C | C11H15N3O2S2
reactant | 2-Fluorophenacyl bromide | 0.13 mmol, 28 mg | FC1=C(C(CBr)=O)C=CC=C1 | C8H6BrFO
reactant | diisopropylethylamine | 0.13 mmol, 17 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 0.33 ml | CN(C)C=O | C3H7NO
product | (2-Fluoro-phenyl)-[2-(3-methanesulfonyl-phenylamino)-thiazol-5-yl]-methanone | 38.5 mg, 79% | FC1=C(C=CC=C1)C(=O)C1=CN=C(S1)NC1=CC(=CC=C1)S(=O)(=O)C | C17H13FN2O3S2
